US06245988B1
4-Methyl-pyridine (900 mL, refluxed over and distilled fresh from KOH pellets) and palladium on charcoal (5%, 37 g) were heated on a bath at 170° C. as long as the chemical equilibrium is reached. The reaction mixture was filtered hot, the catalyst was washed with hot toluene and the filtrate left to crystallise. The 4,4′-dimethyl-2,2′-bipyridine crystals were filtered and washed with toluene. The mother liquors combined, concentrated to ⅓ of the volume and crystallised at 0° C. This second crop of bipyridine was treated as above, the mother liquor was evaporated to dryness under reduced pressure. The bipyridine and terpyridine components of the mother liquor were separated by careful multiple fractional sublimations at 0.02 mmHg, at bath temperatures 80-100° C. (depending on the geometry of the apparatus). Under these conditions, the 4,4′,4″-trimethyl-2,2′:6′,2″-terpyridine accumulates in the residue. The combined pure terpyridine fractions were sublimed twice at 0.02 mmHg at 120-140° C. yielding 15 g of off-white 4,4′,4″-trimethyl-2,2′:6′,2″-terpyridine. (For some fractions column chromatography on silicagel with dichloromethane as eluent was used to get the highly pure 4,4′,4″-trimethyl-2,2′:6′,2″-terpyridine.)

reactant | 4-Methyl-pyridine | 900 mL | CC1=CC=NC=C1 | C6H7N
catalyst | palladium on charcoal | 37 g | [Pd] | Pd
product | 4,4′,4″-trimethyl-2,2′:6′,2″-terpyridine | 15 g | CC1=CC(=NC=C1)C1=NC(=CC(=C1)C)C1=NC=CC(=C1)C | C18H17N3
